US07595369B2
Norbornene (8.8 g, 93 mmol), methyl methacrylate (5 mL, 47 mmol), and AIBN (0.23 g, 1.40 mmol) were charged into a 250 mL Schlenk flask and dissolved in 30 mL of toluene. Ethylaluminum sesquichloride (12.7 g, 51.4 mmol) was charged into a 100 mL flask and dissolved in 20 mL of toluene. The toluene solution of ethylaluminum sesquichloride was slowly dropped to the 250 mL Schlenk flask at −70° C. The reaction temperature was raised to room temperature while stirring the mixture for 2 hours, and then the reaction was performed at 65° C. for 12 hours. The reaction solution turned to light green in color during the reaction. After the reaction was completed, the reaction solution was slowly dropped to 3000 cc of 5% v/v HCl—MeOH to precipitate a white polymer, which was filtered through a glass filter and dried in a vacuum oven at 70° C. for 12 hours to obtain a norbornene-methyl methacrylate copolymer (0.3 g: 3.0% by weight based on the total weight of used monomers). The copolymer had a Tg of 167° C., a molecular weight (Mw) of 10,700, and Mw/Mn of 3.4.

reactant | Norbornene | 93 mmol, 8.8 g | C12C=CC(CC1)C2 | C7H10
reactant | methyl methacrylate | 47 mmol, 5 mL | C(C(=C)C)(=O)OC | C5H8O2
reactant | AIBN | 1.40 mmol, 0.23 g | CC(C)(C#N)N=NC(C)(C)C#N | C8H12N4
reactant | Ethylaluminum sesquichloride | 51.4 mmol, 12.7 g | CC[Al](CC)Cl.CC[Al](Cl)Cl
reactant | HCl MeOH | Cl.CO
solvent | toluene | 30 mL | C1(=CC=CC=C1)C | C7H8
solvent | toluene | 20 mL | C1(=CC=CC=C1)C | C7H8
product | norbornene methyl methacrylate | C12C=CC(CC1)C2.C(C(=C)C)(=O)OC | InChI=1S/C7H10.C5H8O2/c1-2-7-4-3-6(1)5-7;1-4(2)5(6)7-3/h1-2,6-7H,3-5H2;1H2,2-3H3
